US07790747B2
To a solution of {(R)-3-[4-(cyclohexylmethyl-amino)-piperidin-1-yl]-butyl}-carbamic acid tert-butyl ester (174 mg, 0.47 mmol) in THF (5 ml) was added methoxy-carbamic acid phenyl ester (94.7 mg, 0.56 mmol). The mixture was stirred at 60° C. for 3 d then concentrated in vacuo. The crude product was purified by flash chromatography (CH2Cl2, 7% MeOH, 1% NH4OH) to afford {(R)-3-[4-(1-cyclohexylmethyl-3-methoxy-ureido)-piperidin-1-yl]-butyl}-carbamic acid tert-butyl ester (105 mg, 50%) as a yellow oil.

reactant | {(R)-3-[4-(cyclohexylmethyl-amino)-piperidin-1-yl]-butyl}-carbamic acid tert-butyl ester | 0.47 mmol, 174 mg | C(C)(C)(C)OC(NCC[C@@H](C)N1CCC(CC1)NCC1CCCCC1)=O | C21H41N3O2
reactant | methoxy-carbamic acid phenyl ester | 0.56 mmol, 94.7 mg | C1(=CC=CC=C1)OC(NOC)=O | C8H9NO3
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | {(R)-3-[4-(1-cyclohexylmethyl-3-methoxy-ureido)-piperidin-1-yl]-butyl}-carbamic acid tert-butyl ester | 105 mg, 50% | C(C)(C)(C)OC(NCC[C@@H](C)N1CCC(CC1)N(C(=O)NOC)CC1CCCCC1)=O | C23H44N4O4
